US05244890
To 1N hydrochloric acid was added 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-((5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate (syn isomer) (2.2 g). The mixture was stirred under ice-cooling for 3 hours. The resulting precipitate was collected by filtration, washed with a small amount of cold water and dried under reduced pressure to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (1.1 g).

reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-((5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate | 2.2 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | C24H28N8O9S2
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate hydrochloride | 1.1 g | Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | InChI=1S/C24H28N8O9S2.ClH/c1-24(2,22(39)40)41-29-14(17-28-23(25)43-30-17)18(35)27-15-19(36)31-16(21(37)38)10(9-42-20(15)31)7-32(3,4)8-11-5-12(33)13(34)6-26-11;/h5-6,15,20H,7-9H2,1-4H3,(H6-,25,26,27,28,29,30,33,34,35,37,38,39,40);1H/t15-,20-;/m1./s1
